Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
tetracycline / codeine / BuSpar
 
Attending: ___.
 
Chief Complaint:
Worsening back pain and fecal incontinence.
 
Major Surgical or Invasive Procedure:
POSTERIOR DECOMPRESSION L1-L2, INSTRUMENTED FUSION L1-L5 for 
severe stenosis and fecal incontinence

 
History of Present Illness:
___ with ___ recently admitted under neurosurgery
___ with severe low back pain and fecal incontinence,
found to have severe L1-L2 stenosis with retrolisthesis who
deferred surgery until after the holidays.  The patient was 
discharged with home ___ and TLSO brace when OOB;
the patient reports that she did not wear brace initially after
discharge.  

She returned to ___ ___ with worsening back pain and 
worsening fecal incontinence. She reports pain from her left 
groin radiating to her back, cramping of left calf at rest, 
worsening leakage of stool with voiding.  The patient did not 
have her TLSO when she presented to the ED and was kept on 
bedrest during her admission. She was readmitted from 
___ when her family brought her TLSO brace from home.  
The patient was discharged to ___ with planned readmission for 
surgery on ___.
 
Past Medical History:
HTN, DM, HLD, MI s/p cardiac stent on Plavix, Depression,
gastric ulcer, Bilateral knee replacements about ___ yrs ago and
back surgeries x2 with posterior fusion 5 and ___ years ago. 

 
Social History:
___
Family History:
NC.
 
Physical Exam:
On discharge: ___ x 3.  NAD.  Wearing TLSO.  ___ BUE and BLE.
Incision clean, dry, intact.  No drainage or erythema.

 
Pertinent Results:
___ L-SPINE (AP & LAT)
Reduction of the previously seen retrolisthesis of L1 on L2. 
Postoperative changes as described.  

 
Brief Hospital Course:
On ___, Ms. ___ was admitted for elective posterior 
decompression L1-L2 and instrumented fusion L1-L5 for severe 
stenosis and fecal incontinence. She went to the OR with Dr. 
___ the procedure went well. She was recovered in the 
PACU and transferred to the floor with a hemovac in place.

On ___ the patient was having severe pain on exam and was 
started on long acting pain medication, MS contin 30 mg PO every 
12 hours, with oxycodone for break through pain. Her triple 
bowel regimen was changed from as needed to standing orders. The 
patient was neurologically stable and required much effort to 
participate in exam. The patient was ordered for physical 
therapy and occupational therapy for dispo planning. 

On ___ the patient remained neurologically stable, however 
continued to experience severe pain. An acute pain consultation 
was obtained and recommended MS ___ changed to 15 mg PO TID 
with Dilaudid ___ mg PO Q3 PRN as well as Dilaudid 0.5 mg IV Q3 
for severe pain. The patient TLSO brace was at the bedside and 
she had been wearing it when out of bed per nursing. Physical 
and occupational therapy are involved for dispo planning. The 
dressing was removed and the incision was CDI. The patient 
accidentally pulled out her hemovac this morning and is without 
the need for reinsertion at this time. Routine lumbar AP and 
lateral films showed normal postoperative changes as well as a 
reduction of the previously seen retrolisthesis of L1 on L2.

On ___, the patient continued to work with ___.  She needed to 
be reminded to wear her brace when out of bed.  She continued to 
work well with ___ and her pain was well controlled on her 
current regimen.

On ___, the patient is doing well and has been ambulating well. 
 She worked well with ___ and was cleared for discharge home.  
She was also evaluated by OT who recommended rehab, however the 
patient refused despite explaining the rationale.  The plan is 
to discharge home today with home services.
 
Medications on Admission:
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
RX *alprazolam 0.5 mg 1 tablet(s) by mouth twice a day as needed 

for anxiety Disp #*10 Tablet Refills:*0
3. Atorvastatin 40 mg PO QPM 
4. Cyclobenzaprine 5 mg PO TID:PRN muscle spasm 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth TID PRN Disp #*30 
Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
6. Fluoxetine 20 mg PO DAILY 
7. Heparin 5000 UNIT SC BID 
8. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
9. Metoprolol Tartrate 12.5 mg PO BID 
10. Nicotine Patch 14 mg TD DAILY 
11. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth every 3 hours as 
needed for pain Disp #*90 Capsule Refills:*0
12. Pantoprazole 40 mg PO Q12H 
13. Senna 17.2 mg PO QHS:PRN constipation 
 
Discharge Medications:
1. Acetaminophen 1000 mg PO TID 
2. ALPRAZolam 0.5 mg PO TID 
3. Atorvastatin 40 mg PO QPM 
4. Docusate Sodium 100 mg PO BID 
5. Fluoxetine 20 mg PO DAILY 
6. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
7. Metoprolol Tartrate 12.5 mg PO BID 
8. Morphine SR (MS ___ 15 mg PO Q12H 
RX *morphine [MS ___ 15 mg 1 (One) tablet(s) by mouth twice 
a day Disp #*30 Tablet Refills:*0
9. Pantoprazole 40 mg PO Q12H 
10. Senna 17.2 mg PO HS 
11. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
four (4) hours Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Lumbar Stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with staples or sutures. You will need 
suture/staple removal. 
•Do not apply any lotions or creams to the site. 
•Please keep your incision dry until removal of your 
sutures/staples.
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•*** You must wear your brace at all times when out of bed. You 
may apply your brace sitting at the edge of the bed. You do not 
need to sleep with it on. 
•*** You must wear your brace while showering. 
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… until cleared by your 
neurosurgeon.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___